US07906502B2
N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-D-valine
To a stirred solution of N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycine (12.8 mg, 0.023 mmol) in DMF (2 ml) was added N-methylmorpholine (15 μl, 0.091 mmol). TBTU (8.8 mg, 0.027 mmol) was added and the reaction mixture was stirred at 30° C. for 1 hour. D-valine (4.5 mg, 0.038 mmol) was added and the mixture was stirred at ambient temperature overnight. The solution was purified with preparative HPLC on a C8 column, UV 240/260 nm. A gradient from 20 to 45% MeCN in 0.1M NH4OAc buffer was used as eluent. The pure fractions were collected and the MeCN was removed under reduced pressure. The remaining water solution was acidified to pH 1 with HCl (1M) and extracted with DCM. The organic phase was passed through a phase separator and concentrated under reduced pressure. The residue was dissolved in MeCN and water. After lyophilisation, the title compound was obtained. H-NMR (400 MHz, DMSO-d6): 0.80 (bs, 6H), 1.92-2.04 (m, 1H), 2.77-2.90 (m, 2H), 3.77 (bs, 2H), 3.94-4.10 (b, 1H), 4.22-4.30 (m, 1H), 4.49 (s, 2H), 4.56-4.64 (m, 1H), 4.99-5.03 (m, 1H), 5.90-5.94 (m, 2H), 6.70-6.79 (m, 2H), 6.82 (s, 1H), 6.96 (d, 2H), 7.09-7.15 (m, 2H), 7.18-7.24 (m, 2H), 7.34 (d, 2H), 8.23 (bs, 1H). M/z: 666.67 (M−1).

reactant | N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycine | 0.023 mmol, 12.8 mg | O1COC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)NCC(=O)O)C=C2)O | C28H25FN2O8S
reactant | N-methylmorpholine | 0.091 mmol, 15 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.027 mmol, 8.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | D-valine | 0.038 mmol, 4.5 mg | N[C@H](C(C)C)C(=O)O | C5H11NO2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-D-valine | O1COC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)C)C(=O)O)C=C2)O | C33H34FN3O9S
